US04290971
19.1 g (0.05 M) of N-(3-iodophenyl)-N'-acetylthiourea, 4.2 g (0.03 M) of potassium carbonate, 3.8 ml (0.06 M) of methyliodide and 100 ml of acetone are boiled during 4 hours. The acetone is distilled off. Water is added to the residue, it is heated up to 50°-60° and is ground. The sediment is filtered. After drying 19.8 g (100% of the theoretical yield) of N-(3-iodophenyl)-N'-acetyl-S-methylisothiourea are obtained with a melting point of 80°-90° C. After being twice recrystallized from ethanol and isopropanol, 9.9 g (50% of the raw product) of N-(3-iodophenyl)-N'-acetyl-S-methylisothiourea are obtained with a melting point of 92°-93°.

reactant | N-(3-iodophenyl)-N'-acetylthiourea | 0.05 M, 19.1 g | IC=1C=C(C=CC1)NC(=S)NC(C)=O | C9H9IN2OS
reactant | potassium carbonate | 0.03 M, 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyliodide | 0.06 M, 3.8 ml | CI | CH3I
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(3-iodophenyl)-N'-acetyl-S-methylisothiourea | IC=1C=C(C=CC1)NC(SC)=NC(C)=O | C10H11IN2OS
